US07053086B2
5-(3-{4-Ethoxycarbonyl-5-methyl-3-[3-(4-methylpiperazin-1-yl)-propyl]-1H-pyrrol-2-ylmethylene}-2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid
A mixture of 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid (51 mg, 0.2 mmol), 5-formyl-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester (64 mg, 0.2 mmol) and piperidine (0.2 mL) in ethanol (1 mL) was heated in a sealed tube at 60° C. for 5 hours. The reaction was acidified with 1N HCl and the resulted precipitate was collected by vacuum filtration, washed with water and dried to give the title compound.

reactant | 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid | 0.2 mmol, 51 mg | O=C1NC2=CC=CC(=C2C1)C=1C=NC=C(C(=O)O)C1 | C14H10N2O3
reactant | 5-formyl-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 0.2 mmol, 64 mg | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=O)C | C17H27N3O3
reactant | piperidine | 0.2 mL | N1CCCCC1 | C5H11N
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-(3-{4-Ethoxycarbonyl-5-methyl-3-[3-(4-methylpiperazin-1-yl)-propyl]-1H-pyrrol-2-ylmethylene}-2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid | C(C)OC(=O)C=1C(=C(NC1C)C=C1C(NC2=CC=CC(=C12)C=1C=NC=C(C(=O)O)C1)=O)CCCN1CCN(CC1)C | C31H35N5O5
